US05037973
N,N'-1,12-Dodecanediylbis(6-O-α-D-galactopyranosyl-D-gluconamide)
3.96 g of potassium melibionate (Sigma Chemie) are reacted with 1.00 g of 1,12-diaminododecane analogously to Example 3 and 3.3 g of the title compound are obtained.

reactant | potassium melibionate | 3.96 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@H]([C@H]([C@@H]([C@H](C(=O)O)O)O)O)O)O)O)O)O | C12H22O12
reactant | 1,12-diaminododecane | 1.00 g | NCCCCCCCCCCCCN | C12H28N2
product | N,N'-1,12-Dodecanediylbis(6-O-α-D-galactopyranosyl-D-gluconamide) | 3.3 g | C(CCCCCCCCCCCNC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO[C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)NC(=O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO[C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C36H68N2O22
